Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Carboplatin/Taxol desensitization
 
Major Surgical or Invasive Procedure:
N/A 

 
History of Present Illness:
___ woman with PMH of psoriasis, childhood asthma, and
Stage IIB ovarian endometrioid adenocarcinoma, receiving
___ who presents for cycle 7 with taxol desensitization. 


Patient started course of chemotherapy in ___. Course
complicated by taxol hypersensitivity requiring desensitization.
Patient presents today for her next cycle with her mother,
feeling well. She has tolerated C2-C6 well while inpatient.

Her prior allergic symptoms consisted of abdominal pain, rash,
throat irritation. 

She is feeling well today and reports no symptoms or recent
illness. No fevers, chills, chest pain, shortness of breath,
abdominal pain, or otherwise.

Review of systems as noted in HPI.
 
Past Medical History:
PAST ONCOLOGIC HISTORY (per OMR):
Ms. ___ was diagnosed at age ___. An u/s on ___ showed an
anteverted uterus at 8.7 x 3.9 x 5.1cm in size with 2 adjacent
cysts measuring 11.8 x 4.5 x 4.9cm with the largest cystic
portion measuring 7.1 x 3.8cm in size. A pelvic MRI in ___
showed an enlarged complex cystic mass likely arising form the
right ovary with 2 enlarged complex  cysts measuring 8.5cm and
6.3cm each. There was no other evidence of metastatic disease.
She underwent surgery on ___. Intraoperative findings 
include
complex bilobed right ovarin mass filled with mucinous cystic
fluid which was ruptured intraoperatively. An attempt was made 
to perform a cystectomy for the ___ cyst, but there was also
rupture of the cyst revealing mucinous material. Frozen showed
borderline tumor, so a complete right sided 
salpingo-oophorectomy
was performed. A small 0.5cm nodule was removed from the left
ovary. She had cul de sac biopsies. The appendix was wnl, and an
omental biopsy was obtained. The abdomen was thoroughly
irrigated. 
Pathology from the right ovary demonstrated a 
well-differentiated adenocarcinoma associated with a 7.5cm
mucinous borderline  tumor. There was no LVSI, or malignancy
noted from the right fallopian tube. The cul-de-sac nodule was
consistent with metastatic mucinous carcinoma. Omental biopsy 
and
pelvic  washings were both negative for malignancy.
Prior to initiating chemotherapy, she underwent fertility
preservation with oocyte preservation and egg retrieval. She
began adjuvant treatment with taxol, ___ on ___. 
- ___: C1D1 Taxol, 175mc/m2, ___, AUC 6. She had myalgias
D3-7 Rash developed around day 10;  treated with prednisone x 5
days with resolution.
- ___: C2D1 Hypersensitivity Reaction to taxol ~ 18cc.  Held
remainder of treatment;  plan to refer to allergy
- ___ ___ alone, AUC 6.  Allergy referral 
- ___: C3 ___ AUC6 & Taxol 175 mg/m2 via desens on ___
- ___ C4 Carboplatin (AUC 6), Paclitaxel 
- ___  C5 Carboplatin (AUC 6), Paclitaxel 
PAST MEDICAL HISTORY:
-Childhood asthma 
-Psoriasis
 
Social History:
___
Family History:
Father - prostate cancer (age ___
PGF- prostate cancer
MGF - lymphoma

 
Physical Exam:
ADMISSION EXAM
=======================
VS: 98.7 104/70 101 18 98 RA   
GENERAL: well appearing, NAD 
HEENT: MMM 
CARDIAC: RRR, nl S1 S2, no murmurs/rub/gallops  
LUNG: CTA bilaterally  
ABD: NABS. Soft, NT, ND. 
EXT: WWP, no ___ edema  
PULSES: D2+ bilaterally  
NEURO: CN2-12 grossly intact 
SKIN: No significant rashes 

DISCHARGE EXAM
=======================
VS stable
GENERAL: well appearing, NAD 
HEENT: MMM 
CARDIAC: RRR, nl S1 S2, no murmurs/rub/gallops  
LUNG: CTA bilaterally  
ABD: NABS. Soft, NT, ND. 
EXT: WWP, no ___ edema  
PULSES: D2+ bilaterally  
NEURO: CN2-12 grossly intact 
SKIN: No significant rashes 
 
Pertinent Results:
No labs, imaging, or studies obtained this admission.
 
Brief Hospital Course:
___ woman with history of stage IIB ovarian endometrioid 
adenocarcinoma receiving ___ presented for taxol 
desensitization given history of allergic reaction during ___ 
cycle. Taxol was administered over course of the day without 
complication and she was able to be discharged home with plan 
for continued outpatient oncology follow up.

# Stage IIB ovarian endometrioid adenocarcinoma: 
Complicated by taxol hypersensitivity during ___ cycle. Symptoms 
at that time of abdominal pain, rash, throat irritation. Now s/p 
6 cycles with desensitization, presenting for desensitization in 
preparation for cycle 7. 
Upon arrival reported to be asymptomatic with no recent illness 
or concerns. Vitals and recent labs reassuring. Initiated 
___ per desensitization protocol which was completed 
without complication. Discharged home same day as admission with 
plan for continued outpatient oncology follow up.

# Anemia: 
Noted at outpatient gyn onc appointment. Hgb 10.8 on day prior 
to
admission, stable. Likely related to chemotherapy.

TRANSITIONAL ISSUES:
[ ] Taxol was tolerated without complication.
[ ] Plan to continue with regular oncology follow up as 
scheduled. 

#CODE: full (presumed)
#CONTACT: ___ Cell ___ Home ___
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Famotidine 20 mg PO DAILY:PRN GERD 
2. LORazepam 0.5 mg PO Q6H:PRN nausea, anxiety, insomnia  
3. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Moderate 

4. Prochlorperazine 10 mg PO Q6H:PRN nausea 
5. Cetirizine 10 mg PO ASDIR 
6. Nexplanon (etonogestrel) 68 mg Other ASDIR 
7. Ondansetron 8 mg PO Q8H:PRN nausea 
8. Dexamethasone 4 mg PO Q12H 

 
Discharge Medications:
1.  Dexamethasone 4 mg PO Q12H 
for 3 days after chemotherapy  
2.  Famotidine 20 mg PO DAILY:PRN GERD  
3.  LORazepam 0.5 mg PO Q6H:PRN nausea, anxiety, insomnia   
4.  Nexplanon (etonogestrel) 68 mg Other ASDIR  
5.  Ondansetron 8 mg PO Q8H:PRN nausea  
6.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate  
7.  Prochlorperazine 10 mg PO Q6H:PRN nausea  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: 
Stage IIB ovarian endometrioid adenocarcinoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted for chemotherapy. You tolerated this well. 
Please follow up with your doctors after ___ and take your 
medications as prescribed. 

We wish you the best! 

Sincerely, 
Your ___ Care Team 
 
Followup Instructions:
___